US08226929B2
Synthesis of 4-(2-hydroxyethoxymethyl)benzoic acid methyl ester
Ethylene oxide (1.10 mL) was added to the cooled stirring solution dropwise followed by the addition of boron trifluoride etherate (0.51 ml). The reaction mixture was stirred for 45 minutes and then warmed to room temperature for 30 minutes to boil off any excess of ethylene oxide in the reaction mixture. The reaction mixture was then diluted with brine. The aqueous layer was extracted with dichloromethane (3 times). All of the organic layers were combined, dried over Na2SO4, filtered, and concentrated to provide an oil. The crude material was purified using silica gel:chromatography (4:1 pentane:ethyl acetate) to provide the desired product (537 mg, 2.56 mmol) in 17% yield. 1H (CDCl38.36, 600 Mhz): δ (2H, d, J=8.4 Hz), 7.41 (2H, d, J=8.5 Hz), 4.62 (3H, s), 3.92 (2H, s), 3.78 (m, 2H), 3.63 (2H, m); 13C (CDCl3167.1, 143.5, 130.0, 129.8, 127.5, 72.9, 72.0, 150 MHz): δ 62.1, 52.3.

reactant | Ethylene oxide | 1.10 mL | C1CO1 | C2H4O
reactant | boron trifluoride etherate | 0.51 ml | B(F)(F)F.CCOCC
reactant | pentane | CCCCC | C5H12
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | 4-(2-hydroxyethoxymethyl)benzoic acid methyl ester | 2.56 mmol, 537 mg, 17% yield | COC(C1=CC=C(C=C1)COCCO)=O | C11H14O4
